US06586475B1
2-(4-Aminophenyl)-N-(2-(dimethylamino)ethyl)-N-methylacetamide
To a solution of benzyl 4-(2-((2-(dimethylamino)ethyl)(methyl)amino)-2-oxoethyl)phenylcarbamate (0.7 g) in ethanol (10 ml) was added 10% Pd-C (0.2 g). The reaction mixture was hydrogenated under atmospheric pressure at room temperature for one hr. The catalyst was removed by filtration and the filtrate was concentrated to obtain the titled compound (0.43 g).

reactant | benzyl 4-(2-((2-(dimethylamino)ethyl)(methyl)amino)-2-oxoethyl)phenylcarbamate | 0.7 g | CN(CCN(C(CC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O)=O)C)C | C21H27N3O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd-C | 0.2 g | [Pd] | Pd
product | 2-(4-Aminophenyl)-N-(2-(dimethylamino)ethyl)-N-methylacetamide | 0.43 g | NC1=CC=C(C=C1)CC(=O)N(C)CCN(C)C | C13H21N3O
